US08471005B2
[7-(3-Cyclopropylmethanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-trifluoromethyl-3H-benzimidazol-5-yl)-amine
Following the synthetic and purification procedures described in Example 1293d, 7-(3-cyclopropylmethanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (75 mg, 0.20 mmol) was coupled with 2-trifluoromethyl-3H-benzimidazol-5-ylamine (68.3 mg, 0.340 mmol) at 105° C. for 86 h to afford the title compound. Yield of TFA salt: 25 mg (22%) of brown powder; LC/MS: 513 (M+H); HPLC: 97% pure, RT=3.43 min; 1H NMR: (DMSO, δ) 9.60 (s, 1H), 8.97 (s, 1H), 8.53 (d, J=7.9, 1H), 8.41 (s, 1H), 7.90 (s, 1H), 7.81 (d, J=7.9, 1H), 7.70 (m, 2H), 7.60 (d, J=8.8, 1H), 7.21 (d, J=4.8, 1H), 6.91 (d, J=4.8, 1H), 3.20 (d, J=7.2, 2H), 0.77 (m, 1H), 0.32 (m, 2H), −0.01 (m, 2H).

reactant | 7-(3-cyclopropylmethanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.20 mmol, 75 mg | C1(CC1)CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)SC | C17H17N3O2S2
reactant | 2-trifluoromethyl-3H-benzimidazol-5-ylamine | 0.340 mmol, 68.3 mg | FC(C=1NC2=C(N1)C=CC(=C2)N)(F)F | C8H6F3N3
product | [7-(3-Cyclopropylmethanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-trifluoromethyl-3H-benzimidazol-5-yl)-amine | C1(CC1)CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(N=C(N1)C(F)(F)F)C=C2 | C24H19F3N6O2S
